US05216156
2-[Bis(2-hydroxyethyl)amino]-4,6-bis[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine
The title compound is prepared from the reaction of 2-chloro-4,6-bis[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine and diethanolamine according to the procedure of Example 1.

reactant | 2-chloro-4,6-bis[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine | ClC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)NCCCCC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C41H74ClN7O2
reactant | diethanolamine | N(CCO)CCO | C4H11NO2
product | 2-[Bis(2-hydroxyethyl)amino]-4,6-bis[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine | OCCN(C1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)NCCCCC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)CCO | C45H84N8O4
